US07119090B2
To a mixture of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1.67 g, 10 mmol) in dimethylforamide (10 mL) was added benzotriazol-1-yloxytris (dimethylamino)- phosphonium hexafluorophosphate (BOP reagent, 6 g, 13.5 mmol) followed by 3 mL diisopropylethylamine. After stirring for 5 minutes, 1 mL of N,N-dimethylethylendiamine was added and the mixture was stirred at room temperature for 24 hours. To the reaction mixture was added 25 mL of 1N sodium hydroxide and 25 mL of brine. After stirring for 30 minutes, the reaction mixture was poured into water (100 mL) and extracted (3×200 mL) with 10% of methanol in dichloromethane. The organic layers were combined, dried over anhydrous sodium sulfate and evaporated using a rotary evaporator. The residue which remained was purified by chromatography (silica gel column, 5%-10% methanol in dichioromethane) to give 1 g (42%) of 5-formyl-2,4-dimethyl-1H-pyrrole-3-(carboxylic acid (2-dimethylamino-ethyl)-amide.

reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 10 mmol, 1.67 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | benzotriazol-1-yloxytris (dimethylamino)- phosphonium hexafluorophosphate | 13.5 mmol, 6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylethylendiamine | 1 mL | CN(CCN)C | C4H12N2
reactant | sodium hydroxide | 1N, 25 mL | [OH-].[Na+]
solvent | dimethylforamide | 10 mL | CN(C=O)C | C3H7NO
solvent | brine | 25 mL | [Cl-].[Na+].O
solvent | water | 100 mL | O | H2O
product | 5-formyl-2,4-dimethyl-1H-pyrrole | 1 g, 42% | C(=O)C1=C(C=C(N1)C)C | C7H9NO
